US08580783B2
4-[2-amino-8-(2-hydroxy-ethylamino)-[1,2,4]triazolo[1,5-c]quinazolin-5-ylmethyl]-2-methoxy-phenol
Operating as in Example 83, but employing 5-(4-benzyloxy-3-methoxy-benzyl)-8-(2-hydroxy-ethylamino)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine, prepared as described in Example 67, instead of 5-(4-benzyloxy-3-methoxy-benzyl)-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine, the title compound was obtained in 86% yield.

reactant | 5-(4-benzyloxy-3-methoxy-benzyl)-8-(2-hydroxy-ethylamino)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | C(C1=CC=CC=C1)OC1=C(C=C(CC2=NC=3C=C(C=CC3C=3N2N=C(N3)N)NCCO)C=C1)OC | C26H26N6O3
reactant | 5-(4-benzyloxy-3-methoxy-benzyl)-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | C(C1=CC=CC=C1)OC1=C(C=C(CC2=NC=3C=C(C=CC3C=3N2N=C(N3)N)F)C=C1)OC | C24H20FN5O2
product | 4-[2-amino-8-(2-hydroxy-ethylamino)-[1,2,4]triazolo[1,5-c]quinazolin-5-ylmethyl]-2-methoxy-phenol | 86% yield | NC1=NN2C(=NC=3C=C(C=CC3C2=N1)NCCO)CC1=CC(=C(C=C1)O)OC | C19H20N6O3
